US05637718
(c) 1-(2-Methylpropyl)-4,4-dimethyl-1,4,5,6-tetrahydropyridine
Acetic acid was added to a mixture of ethanol (40 ml) and water (20 ml) until the pH was 4. 5-Bromo-3,3-dimethylpentanal (19.3 g, 0.1 mol) was added to the mixture, which was then cooled to 0°-5° C. and purged with nitrogen. Isobutylamine (7.3 g, 0.1 mol) was added over 5 minutes to the solution stirring under an atmosphere of nitrogen. After 3 hours stirring at 0°-5° C., most of the ethanol was removed under reduced pressure, the residue then diluted with water (20 ml) and the solution taken to pH 10 with solid potassium carbonate. The mixture was extracted with ether (3×50 ml), the organic layer dried over anhydrous MgSO4 and concentrated to yield a pale yellow oil (15.5 g, 93%) which was essentially pure by 1H NMR spectroscopy. A pure colourless liquid (13.0 g, 78%) was obtained after vacuum distillation, b.p. 50°-53° C./2 mm Hg. The 1H NMR spectrum was found to be the same as for material prepared by the procedure hereafter described in Example 25 Part (C).

reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | 5-Bromo-3,3-dimethylpentanal | 0.1 mol, 19.3 g | BrCCC(CC=O)(C)C | C7H13BrO
reactant | Isobutylamine | 0.1 mol, 7.3 g | C(C(C)C)N | C4H11N
solvent | ethanol | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-(2-Methylpropyl)-4,4-dimethyl-1,4,5,6-tetrahydropyridine | 15.5 g, 93% | CC(CN1C=CC(CC1)(C)C)C | C11H21N
